US07531545B2
Following the procedure as described in Example 25, STEP E, 4-methyamino-cyclohexanecarbonitrile and 4-(S)-tert-butoxycarbonylamino-5-methyl-hexanoic acid were reacted to yield (1-{2-[(4-cyano-cyclohexyl)-methyl-carbamoyl]-ethyl}-2-methyl-(S)-propyl)-carbamic tert-butyl ester as a lightly colored oil was prepared.

reactant | 4-methyamino-cyclohexanecarbonitrile | CNC1CCC(CC1)C#N | C8H14N2
reactant | 4-(S)-tert-butoxycarbonylamino-5-methyl-hexanoic acid | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)O)C(C)C | C12H23NO4
product | (1-{2-[(4-cyano-cyclohexyl)-methyl-carbamoyl]-ethyl}-2-methyl-(S)-propyl)-carbamic tert-butyl ester | C(C)(C)(C)OC(N[C@H](C(C)C)CCC(N(C)C1CCC(CC1)C#N)=O)=O | C20H35N3O3
